US06211215B1
In substantially the same manner as in Reference Example 85, 3-(2-methoxy-5-pyridyl)propanol was reacted with methanesulfonyl chloride to give 3-(2-methoxy-5-pyridyl)propyl methanesulfonate. The yield was quantative. Oily substance.

reactant | 3-(2-methoxy-5-pyridyl)propanol | COC1=NC=C(C=C1)CCCO | C9H13NO2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 3-(2-methoxy-5-pyridyl)propyl methanesulfonate | CS(=O)(=O)OCCCC=1C=CC(=NC1)OC | C10H15NO4S
